US06001997
(b) 5-Methyl-2-furoic acid
Methyl 5-methyl-2-furoate (3.68 g, 26.29 mmol) in methanol (30 ml) was treated with a solution of potassium hydroxide (2.80 g, 50.0 mmol) in water (15 ml) and the mixture stirred for 2 h at room temperature. The methanol was evaporated in vacuo, the residue dissolved in water and washed with ethyl acetate. The aqueous phase was acidified with SN hydrochloric acid, and the product extracted with ethyl acetate (x3). The combined organic solutions were dried and concentrated to yield the title compound as a yellow solid (3.12 g, 94%); m.p. 110-112° C.; (Found: M+, 126.0312. C6H6O3 requires M+ 126.0317); νmax (CH2C12) 3300-2700, 1688, 1524, 1424, 1305, 1210 and 1167 cm-1 ; δH (CDCl3, 90 MHz) 2.40 (3 H, s), 6.15 (1 H, d, J 4 Hz) and 7.22 (1 H, d, J 4 Hz).

reactant | Methyl 5-methyl-2-furoate | 26.29 mmol, 3.68 g | CC1=CC=C(O1)C(=O)OC | C7H8O3
reactant | potassium hydroxide | 50.0 mmol, 2.80 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 5-Methyl-2-furoic acid | 3.12 g, 94% | CC1=CC=C(O1)C(=O)O | C6H6O3
